US05175218
1,4-Bis-(2-xanthenoyl)benzene was synthesized in this fashion: To a solution of 11.84 g of xanthene and 2.64 g of terephthaloyl chloride in 79 cc of o-dichlorobenzene chilled at 11° C. for 40 min,.was added, in a nitrogen atmosphere and without further cooling, 8.40 g of aluminum chloride portionwise so that the temperature did not rise above 26° C. The resulting deep reddish-brown solution was stirred for 45 min. It was then mixed with 240 cc of o-dichlorobenzene, and water was added. The mixture was heated to 98°-100° C. with stirring, and kept at that temperature for 30 min. Two layers formed. The organic layer was separated, and after cooling to room temperature, the solid that separated was collected by filtration. The solids were washed with methanol, methylene chloride, twice again with methanol, and dried under vacuum at ~90° C. for several hours. Mass spectrometry showed this solid to be the desired compound and indicated no impurities.

reactant | xanthene | 11.84 g | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | terephthaloyl chloride | 2.64 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | aluminum chloride | 8.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | o-dichlorobenzene | 79 cc | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | o-dichlorobenzene | 240 cc | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,4-Bis-(2-xanthenoyl)benzene | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(=O)C1=CC=C(C=C1)C(=O)C1=CC=2CC3=CC=CC=C3OC2C=C1 | C34H22O4
